US04361559
(D) 11β-Acetyloxy-17-(ethylthio)-9-fluoro-17-(phenylthio)androsta-1,4-dien-3-one
A solution of 1.2 g (2.97 mmole) of 11β-acetyloxy-17-(ethylthio)-9-fluoroandrosta-1,4,16-trien-3-one, 18 ml of dry dichloromethane and 0.8 ml of thiophenol is cooled to -20° C. under nitrogen. Boron trifluoride etherate (0.6 ml) is then added. The solution is stirred at -10° to -20° C. for 2 hours under nitrogen. The resulting solution is diluted with dichloromethane, washed with saturated sodium bicarbonate and water, dried over anhydrous Na2SO4 and evaporated in vacuo to give a gum. This is dissolved in chloroform-hexane (1:1) and chromatographed on a 20 g-silica gel column, eluting successively with chloroform-hexane (1:1), chloroform, chloroform-ethyl acetate (95:5) and chloroform-methanol (9:1) to give 1.0 g of impure title compound. This is dissolved in the minimum amount of ethyl acetate and stood at room temperature for 2 days. The solid that precipitates is filtered to give 480 mg of title compound, melting point 152°-158° C., with consistent spectral data.

reactant | 11β-acetyloxy-17-(ethylthio)-9-fluoroandrosta-1,4,16-trien-3-one | 2.97 mmole, 1.2 g | C(C)(=O)O[C@@H]1[C@@]2([C@]3(C=CC(C=C3CC[C@H]2[C@@H]2CC=C([C@@]2(C)C1)SCC)=O)C)F | C23H29FO3S
reactant | thiophenol | 0.8 ml | C1(=CC=CC=C1)S | C6H6S
reactant | Boron trifluoride etherate | 0.6 ml | B(F)(F)F.CCOCC
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | chloroform hexane | C(Cl)(Cl)Cl.CCCCCC
solvent | dichloromethane | 18 ml | ClCCl | CH2Cl2
product | 11β-Acetyloxy-17-(ethylthio)-9-fluoro-17-(phenylthio)androsta-1,4-dien-3-one | 1.0 g | C(C)(=O)O[C@@H]1[C@@]2([C@]3(C=CC(C=C3CC[C@H]2[C@@H]2CCC([C@@]2(C)C1)(SC1=CC=CC=C1)SCC)=O)C)F | C29H35FO3S2
